US04317769
Into a 200 ml capacity 3-neck flask equipped with a thermometer, a reflux condenser and a stirrer are fed 50 g of potassium salt of 9,10-dihydro-6-bromo-9-hydroxy-9-phospha-10-oxaphenanthrene-9-oxide (CA-B6-K), 30 g of potassium fluoride and 100 g of diethylene glycol, and the flask is heated with stirring so that the contents boil slowly. Dioxane and water are formed little by little to reduce the temperature of the contents. Thus, while they are taken out, the initial boiling temperature is maintained to carry out the reaction for 8 hours. The reaction mixture is cooled down to room temperature to deposit an excess amount of potassium fluoride and potassium bromide formed by the reaction, which are then filtered off. To the resulting filtrate are added 100 ml of water and thereafter 30 ml of 10 N hydrochloric acid to deposit an acid, which is then filtered, dried and recrystallized from ethanol to give about 20 g of 9,10-dihydro-6-fluoro-9-hydroxy-9-phospha-10-oxaphenanthrene-9-oxide, exhibiting a phosphorus content of 12.3% (theoretical value: 12.4%), an acid value of 224 (theoretical value: 224.3) and a melting point of 240° C. or higher, which will be hereinafter referred to as CA-F6.

reactant | potassium | 50 g | [K] | K
reactant | 9,10-dihydro-6-bromo-9-hydroxy-9-phospha-10-oxaphenanthrene-9-oxide | BrC=1C=C2C=3C=CC=CC3OP(C2=CC1)(O)=O | C12H8BrO3P
reactant | potassium fluoride | 30 g | [F-].[K+]
reactant | potassium bromide | [Br-].[K+]
solvent | water | O | H2O
solvent | Dioxane | O1CCOCC1 | C4H8O2
solvent | diethylene glycol | 100 g | C(COCCO)O | C4H10O3
product | 9,10-dihydro-6-fluoro-9-hydroxy-9-phospha-10-oxaphenanthrene-9-oxide | about 20 g | FC=1C=C2C=3C=CC=CC3OP(C2=CC1)(O)=O | C12H8FO3P
